US08357703B2
d) (3-Isobutoxy-5-methyl-isoxazol-4-yl)-methanol
To a stirred solution of 3-isobutoxy-5-methyl-isoxazole-4-carboxylic acid (146 mg, 0.73 mmol) and triethylamine (74 mg, 0.73 mmol) in tetrahydrofuran (5 mL) at −10° C. and under argon was added ethyl chloroformate (80 mg, 1.46 mmol). After 30 min, the mixture was filtered and the filter cake washed with tetrahydrofuran (4 mL). The combined filtrates were added to a solution of sodium borohydride (69 mg, 1.83 mmol) in water (2 mL) at 5° C. After 2 h the mixture was concentrated in vacuo, diluted with NaOH (2 N, 4 mL) then dried, filtered and concentrated in vacuo to give the title compound (111 mg, 82%) as a pale yellow oil. MS: m/e=186.3 [M+H]+.

reactant | 3-isobutoxy-5-methyl-isoxazole-4-carboxylic acid | 0.73 mmol, 146 mg | C(C(C)C)OC1=NOC(=C1C(=O)O)C | C9H13NO4
reactant | triethylamine | 0.73 mmol, 74 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.46 mmol, 80 mg | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 1.83 mmol, 69 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | (3-Isobutoxy-5-methyl-isoxazol-4-yl)-methanol | 111 mg, 82% | C(C(C)C)OC1=NOC(=C1CO)C | C9H15NO3
